US05885986
A stream of hydrogen sulphide was conducted for 1 hr. through a solution of 9.64 g (0.354 mol) of 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile in 210 ml of pyridine and 2.1 ml of triethylamine. The green solution was left to stand for 64 hrs., then de-gassed with a stream of nitrogen and subsequently completely freed from the solvents. The solid residue was partitioned between dichloromethane and water and the suspension obtained was suction filtered. There were obtained 9.41 g (87%) of 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide as yellow crystals. An analytical sample was obtained from the organic phase after recrystallization in methanol. Yellow crystals; m.p. 300°-302°.

reactant | hydrogen sulphide | S | H2S
reactant | 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-carbonitrile | 0.354 mol, 9.64 g | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C#N)C)=O | C13H9ClN4O
solvent | pyridine | 210 ml | N1=CC=CC=C1 | C5H5N
solvent | triethylamine | 2.1 ml | C(C)N(CC)CC | C6H15N
product | 7-chloro-5-methyl-6-oxo-5,6-dihydro-4H-imidazo[1,5-a][1,4]benzodiazepine-3-thiocarboxamide | 9.41 g, 87% | ClC1=CC=CC2=C1C(N(CC=1N2C=NC1C(N)=S)C)=O | C13H11ClN4OS
